US05356926
Ethyl 2-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]-4-thiazoleacetate
Following a procedure analogous to Example 2, 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (1.033 g, 3.88 mmol) and ethyl-2-amino-4-thiazoleacetate (709 mg, 4.37 mmol) gives 1.22 g (73%) of product; mp 91°-92° C.

reactant | 5-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 3.88 mmol, 1.033 g | COC1=CC2=C(SC(=C2OC(C)C)C(=O)O)C=C1 | C13H14O4S
reactant | ethyl-2-amino-4-thiazoleacetate | 4.37 mmol, 709 mg | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
product | Ethyl 2-[[[5-methoxy-3-(1-methylethoxy)benzo[b]thien-2-yl]carbonyl]amino]-4-thiazoleacetate | 1.22 g, 73% | COC1=CC2=C(SC(=C2OC(C)C)C(=O)NC=2SC=C(N2)CC(=O)OCC)C=C1 | C20H22N2O5S2
